US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-fluoro-benzylamide
4-[4-(2-Aminoethyl)anilino]-N-(4-fluorobenzyl)-1-piperidinecarboxamide formate (0.77 g, 1.85 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.671 g, 1.66 mmol) according to Procedure G to give the title compound (0.53 g, 0.67 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(4-fluorobenzyl)-1-piperidinecarboxamide formate | 1.85 mmol, 0.77 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2=CC=C(C=C2)F)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 1.66 mmol, 0.671 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 4-fluoro-benzylamide | 0.67 mmol, 0.53 g | FC1=CC=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C1 | C30H37FN4O4
